US04560692
(c) 1-(2-Phenyl-6-fluoro-4-quinolinyl)-4-piperidinecarboxamide
Reaction of 4-chloro-6-fluoro-2-phenylquinoline and isonipecotamide in a manner similar to that of Example 4(c) gave the named compound as off-white prisms, mp 230°-233°, after recrystallization from ethanol.

reactant | 4-chloro-6-fluoro-2-phenylquinoline | ClC1=CC(=NC2=CC=C(C=C12)F)C1=CC=CC=C1 | C15H9ClFN
reactant | isonipecotamide | N1CCC(C(=O)N)CC1 | C6H12N2O
product | 1-(2-Phenyl-6-fluoro-4-quinolinyl)-4-piperidinecarboxamide | C1(=CC=CC=C1)C1=NC2=CC=C(C=C2C(=C1)N1CCC(CC1)C(=O)N)F | C21H20FN3O
